US05663189
A solution of 0.92 mL of concentrated nitric acid in 17 mL of acetic arthydride is added dropwise to a stirred solution of 2.20 g of 4,7-dimethyl-1,3-benzodioxole in 60 mL of acetic anhydride at -5° C. After 30 minutes, the mixture is poured over 100 g of crushed ice and allowed to stir for 30 minutes as a white precipitate falls out of solution. The solid is filtered, taken up in ether, dried over magnesium sulfate and concentrated under reduced pressure to afford 2.1 g of 5-nitro-4,7-dimethyl-1,3-benzodioxole.

reactant | nitric acid | 0.92 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4,7-dimethyl-1,3-benzodioxole | 2.20 g | CC1=CC=C(C=2OCOC21)C | C9H10O2
solvent | acetic | 17 mL | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | acetic anhydride | 60 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 5-nitro-4,7-dimethyl-1,3-benzodioxole | 2.1 g | [N+](=O)([O-])C1=C(C2=C(OCO2)C(=C1)C)C | C9H9NO4
